US06313143B1
To a solution of 1-(1-methoxyethyl)indole (4 gm, 23 mmol) (prepared as in step a) above) in anhydrous diethyl ether at 0° C. was added oxalyl chloride (4.2 mL, 48 mmol) over 5 minutes. The resulting slurry was stirred at 0° C. for 5 hours, and filtered to afford 1.9 gm of [1-(1-methoxy-ethyl)-1H-indol-3-yl]-oxo-acetyl chloride. (Yield 31%). The material was used without further purification.

reactant | 1-(1-methoxyethyl)indole | 23 mmol, 4 gm | COC(C)N1C=CC2=CC=CC=C12 | C11H13NO
reactant | oxalyl chloride | 48 mmol, 4.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | [1-(1-methoxy-ethyl)-1H-indol-3-yl]-oxo-acetyl chloride | 1.9 gm, Yield 31% | COC(C)N1C=C(C2=CC=CC=C12)C(C(=O)Cl)=O | C13H12ClNO3
